US07550478B2
Step 2: 2-fluoro-3-methoxy-6-vinylbenzaldehyde
To a stirred solution of 6-bromo-2-fluoro-3-methoxybenzaldehyde (13 g, 56 mmol) in nPrOH (200 mL) were added potassium vinyltrifluoroborate (7.9 g, 59 mmol), PdCl2(dppf) (0.91 g, 1.1 mmol), and TEA (7.8 mL, 56 mmol). The reaction mixture was purged with N2 for 10 min, heated to reflux for 3 h, cooled to room temperature, treated with water, and concentrated. The residue was extracted with EtOAc (×3). The combined organics were washed with brine, dried (Na2SO4), concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 10.53 (s, 1H); 7.43 (dd, 1H); 7.31 (d, 1H); 7.16 (t, 1H); 5.60 (d, 1H); 5.36 (d, 1H); 3.95 (s, 3H).

reactant | 6-bromo-2-fluoro-3-methoxybenzaldehyde | 56 mmol, 13 g | BrC1=CC=C(C(=C1C=O)F)OC | C8H6BrFO2
reactant | potassium vinyltrifluoroborate | 59 mmol, 7.9 g | C(=C)[B-](F)(F)F.[K+]
solvent | nPrOH | 200 mL | C(CC)O | C3H8O
catalyst | PdCl2(dppf) | 1.1 mmol, 0.91 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-fluoro-3-methoxy-6-vinylbenzaldehyde | FC1=C(C=O)C(=CC=C1OC)C=C | C10H9FO2
